US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-ethoxy-3-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-ethoxy-3-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid as colorless oil.

reactant | [rac]-2-ethoxy-3-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCCC=1N=C(SC1C)C1=CC=C(C=C1)OC)C)OCC)=O | C27H33NO5S
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-ethoxy-3-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid | C(C)OC(C(=O)O)CC1=C(C=C(C=C1)OCCC=1N=C(SC1C)C1=CC=C(C=C1)OC)C | C25H29NO5S
